US07192968B2
5-Ethoxycarbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridine
Phosphorus pentasulfide (500 g) was suspended in formamide (3,000 ml) with ice cooling, and the suspension was stirred overnight. Water and diethyl ether were added to the reaction mixture, and an organic layer was separated and dried over anhydrous magnesium sulfate, and the solvent was distilled off to obtain a yellow oil. After the oil was dissolved in n-butanol (350 ml), and 3-chloro-1-ethoxycarbonylpiperidin-4-one (150 g) synthesized according to the process described in literature (Tetrahedron, 1983, Vol. 39, p. 3767) was added to the solution, the resultant mixture was stirred at 100° C. for 2.5 hours. The reaction mixture was filtered through Celite. The resultant filtrate was washed with a saturated aqueous solution of sodium hydrogencarbonate and saturated saline, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (dichloromethane-ethyl acetate:hexane=1:2) to obtain the title compound (79.0 g) as a brown oil.

reactant | Phosphorus pentasulfide | 500 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | Water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | 3-chloro-1-ethoxycarbonylpiperidin-4-one | 150 g | ClC1CN(CCC1=O)C(=O)OCC | C8H12ClNO3
reactant | formamide | 3,000 ml | C(=O)N | CH3NO
solvent | n-butanol | 350 ml | C(CCC)O | C4H10O
product | 5-Ethoxycarbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridine | 79.0 g | C(C)OC(=O)N1CC2=C(CC1)N=CS2 | C9H12N2O2S
